US04975112
STAGE 1: Preparation of 2,2-dimethyl-1-pyrazin-2-yl-propan-1-ol
A solution of 2-iodopyrazine (1.0 g, 4.85 mmol) in dry diethylether (10 ml) was added to a solution of n-butyl lithium (4.04 ml of 1.5M, 6.06 mmol) in dry diethylether (20 ml) at -50° C. over a period of 5 minutes under a nitrogen atmosphere. This was followed immediately by the addition of a solution of pivaldehyde (0.65 g, 7.58 mmol) in dry diethylether (10 ml). The reaction mixture was allowed to warm to room temperature over 4 hours and then poured into a mixture of ice and 10% ammonium chloride solution. The aqueous solution was extracted with diethylether (3×50 ml). The combined extracts were washed with water, dried over magnesium sulphate and concentrated under reduced pressure. The residue was taken up in diethylether and filtered through a bed of silica gel. The filtrate was concentrated under reduced pressure to give the product as a clear oil. (0.76 g, 94%).

reactant | 2-iodopyrazine | 4.85 mmol, 1.0 g | IC1=NC=CN=C1 | C4H3IN2
reactant | n-butyl lithium | 6.06 mmol, 1.5M, 4.04 ml | C(CCC)[Li]
reactant | pivaldehyde | 7.58 mmol, 0.65 g | CC(C)(C)C=O | C5H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
product | 2,2-dimethyl-1-pyrazin-2-yl-propan-1-ol | CC(C(O)C1=NC=CN=C1)(C)C | C9H14N2O
